US06858638B2
N-(N-tert-Butoxycarbonyl-3-phenyl-1H-indazol-5-yl)-3-fluorobenzenesulfonamide can be obtained as described in Example 1 from 0.4 g of 5-amino-N-tert-butoxycarbonyl-3-phenyl-1H-indazole, 15 ml of tetrahydrofuran, 0.36 ml of triethylamine and 0.27 g of 3-fluorobenzenesulfonyl chloride. 0.45 g of N-(N-tert-butoxycarbonyl-3-phenyl-1H-indazol-5-yl)-3-fluorobenzenesulfonamide is thus obtained in the form of an ochre solid melting at 100° C.

reactant | 5-amino-N-tert-butoxycarbonyl-3-phenyl-1H-indazole | 0.4 g | NC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C18H19N3O2
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | 3-fluorobenzenesulfonyl chloride | 0.27 g | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | triethylamine | 0.36 ml | C(C)N(CC)CC | C6H15N
product | N-(N-tert-butoxycarbonyl-3-phenyl-1H-indazol-5-yl)-3-fluorobenzenesulfonamide | 0.45 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC(=CC=C1)F)C1=CC=CC=C1 | C24H22FN3O4S
